US04725571
DMDS/DMPS Blend Presulfiding Agent
The procedure shown for DMDS above was repeated except that a 1:1 weight blend of DMDS and DMPS was used as the presulfiding agent and 55 g of the 1:1 blend was dissolved in 3905 g of diesel oil to give a solution containing 1.0 wt % sulfur contributed by the blend. The results are given in Table 1 below.

reactant | DMDS | CSSC | C2H6S2
reactant | DMPS | C(C(CS(=O)(=O)[O-])S)S.[Na+]
reactant | sulfur | [S] | S
product | DMDS DMPS | CSSC.C(C(CS(=O)(=O)[O-])S)S.[Na+] | InChI=1S/C3H8O3S3.C2H6S2.Na/c4-9(5,6)2-3(8)1-7;1-3-4-2;/h3,7-8H,1-2H2,(H,4,5,6);1-2H3;/q;;+1/p-1
